* source PEC030
U_P2         STIM(1,1) $G_DPWR $G_DGND N14552 IO_STM IO_LEVEL=0 
+ 0 0
+ +4uS 1
+REPEAT FOREVER
+ +4uS 0
+  +4uS 1
+ ENDREPEAT
U_P1         STIM(1,1) $G_DPWR $G_DGND N15170 IO_STM IO_LEVEL=0 
+ 0 0
+ +8uS 1
+REPEAT FOREVER
+ +8uS 0
+  +8uS 1
+ ENDREPEAT
U_P0         STIM(1,1) $G_DPWR $G_DGND N15174 IO_STM IO_LEVEL=0 
+ 0 0
+ +16uS 1
+REPEAT FOREVER
+ +16uS 0
+  +16uS 1
+ ENDREPEAT
U_P3         STIM(1,1) $G_DPWR $G_DGND N14510 IO_STM IO_LEVEL=0 
+ 0 0
+ +2uS 1
+REPEAT FOREVER
+ +2uS 0
+  +2uS 1
+ ENDREPEAT
X_XOR3C         N15182 N15189 N15552 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_XOR2B         N15170 N15174 N15189 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_XOR1D         N14510 N14552 N15182 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1         $D_HI $D_HI $D_LO $D_HI $D_LO $D_HI $D_HI $D_LO $D_LO N15860
+  N15772 N15754 N15772 N15835 M_UN0001 M_UN0002 M_UN0003 M_UN0004 M_UN0005
+  M_UN0006 M_UN0007 M_UN0008 $G_DPWR $G_DGND 74181 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_XSIGNAL         STIM(1,1) $G_DPWR $G_DGND N15556 IO_STM IO_LEVEL=0 
+ 0 0
+ +1uS 1
+REPEAT FOREVER
+ +1uS 0
+  +1uS 1
+ ENDREPEAT
X_U2A         N15552 N15556 N15754 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N15556 N15772 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N15552 N15835 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         N15772 N15835 N15860 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U19         $D_HI $D_HI $D_LO $D_HI $D_LO $D_HI $D_HI $D_LO $D_LO N24667
+  N24595 N24535 N24595 N24681 M_UN0009 M_UN0010 M_UN0011 M_UN0012 M_UN0013
+  M_UN0014 M_UN0015 M_UN0016 $G_DPWR $G_DGND 74181 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_XOR1T4D         $D_HI $D_LO N24413 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U18B         N24489 N24681 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U17A         N24595 N24681 N24667 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_XOR2T4B         $D_HI $D_LO N24525 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U16A         $D_HI N24595 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U15A         N24489 $D_HI N24535 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_XOR3T4C         N24413 N24525 N24489 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
